US04209621
3-Ethyl-7-(m-trifluoromethylphenyl)-1,2,4-triazolo[4,3-a]pyrimidine
A mixture of 1.50 g. of 2-hydrazino-4-(m-trifluoromethylphenyl)pyrimidine and 25 ml. of triethyl orthopropionate is refluxed for 8 hours. On cooling the desired compound is obtained by filtration, m.p. 223°-224° C.

reactant | 2-hydrazino-4-(m-trifluoromethylphenyl)pyrimidine | N(N)C1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 3-Ethyl-7-(m-trifluoromethylphenyl)-1,2,4-triazolo[4,3-a]pyrimidine | C(C)C1=NN=C2N1C=CC(=N2)C2=CC(=CC=C2)C(F)(F)F | C14H11F3N4
